* C:\Users\TCT\Dropbox\Hand_code_Advance\DSX10s motor.asc
* First Diffrince between ngspice and ltspice no series resistance on inductors removed Rser=0
*.tran is allso differnet must have tstep then tstop ltspice allows you to obmit tstep (both can caluclate a default)
* C:\Users\TCT\Dropbox\Hand_code_Advance\DSX10s motor.asc
V_drive vtop 0 PULSE(0 12 0 180N 160N 0.000008 0.000016)
L_Motor vtop N002 0.868m
R_Motor N002 N004 74.9
V_SENSE_1 N005 0 0
R_Loss_internal N003 P001 68.59n
V_SENSE_2 P001 N006 0
Back_emf N004 N005 V=I(V_SENSE_2)*{K_emf}
B§V_torque N001 0 V=I(V_SENSE_1)*{K_t}
L§rotor_Inertia N001 N003 7.1n ic=669.081562A
B1 0 AngularSum I=I(V_SENSE_2)
C1 AngularSum 0 1
R1 AngularSum 0 1Meg
S1 0 N006 N007 0 Stall
V_stall N007 0 1
* For motor at 12v:\nTorque Constant K_t = 8.53\nSpeed constant = 1120\nMotor voltage Constant K_emf = 1/1120 V per 1120 rpm = V per 117.286 radians second
.ic v(n007)=1 v(angularsum)=162.719876 v(n001)=-0.000178 v(n006)=0.000001 v(p001)=0.000001 v(n003)=0.000047 v(n005)=0.000000 v(n004)=5.718646 v(n002)=4.153881 v(vtop)=0.000000
.tran 8U .25s UIC
.param K_t=8.53m
.param K_emf=1/117
.param Gr=64
* Its the differnces between the torqs scaled down for the gr offset to the voltage\nN004 = voltage drop over loses so thetorque after the inertia is added, \n \ncompared to speed reduced by gear reduction turned back into a voltage drop which is the torqu
.model SW SW(Vt = 0.0 Ron = 1p)
.MODEL Stall SW(Vt = 0.01 Ron = 1n)
* For motor at 12v:\nTorque Constant K_t = 8.53\nSpeed constant = 1120\nMotor voltage Constant K_emf = 1/1120 V per 1120 rpm = V per 117.286 radians second
* Its the differnces between the torqs scaled down for the gr offset to the voltage\nN004 = voltage drop over loses so thetorque after the inertia is added, \n \ncompared to speed reduced by gear reduction turned back into a voltage drop which is the torqu
*.backanno is not implemented in ngspice
.end


